### PR TITLE
[Merged by Bors] - chore: address and delete many porting notes across the library

### PR DESCRIPTION
**Pull request by j-loreaux**
---

I went hunting for random porting notes and deleted / addressed ones that were relatively easy to deal with.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/MiuLanguage/DecisionNec.lean [hunk 1]
```diff
@@ -154,9 +154,7 @@ theorem goodm_of_rule3 (as bs : Miustr) (h₁ : Derivable (as ++ ↑[I, I, I] ++
     exact mhead
   · contrapose! nmtail
     rcases exists_cons_of_ne_nil k with ⟨x, xs, rfl⟩
-    -- Porting note: `simp_rw [cons_append]` didn't work
-    rw [cons_append] at nmtail; rw [cons_append, cons_append]
-    dsimp only [tail] at nmtail ⊢
+    simp_rw [cons_append _] at nmtail ⊢
```
Comment (YaelDillies) [inline Archive/MiuLanguage/DecisionNec.lean:157]: I assume this doesn't work?
```suggestion
    simp_rw [cons_append] at nmtail ⊢
```
If so, maybe replace the proof but keep the porting note, as this would be a genuine regression

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean [hunk 2]
```diff
@@ -297,7 +297,7 @@ instance : MonoidalPreadditive (ModuleCat.{u} R) := by
   refine ⟨?_, ?_, ?_, ?_⟩
   · intros
     refine TensorProduct.ext (LinearMap.ext fun x => LinearMap.ext fun y => ?_)
-    simp only [LinearMap.compr₂_apply, TensorProduct.mk_apply]
+    simp only [LinearMap.compr₂_apply, TensorProduct.mk_apply, ]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:300]:
```suggestion
    simp only [LinearMap.compr₂_apply, TensorProduct.mk_apply]
```

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean [hunk 3]
```diff
@@ -57,7 +57,6 @@ theorem ihom_map_apply {M N P : ModuleCat.{u} R} (f : N ⟶ P) (g : ModuleCat.of
 
 open MonoidalCategory
 
--- Porting note: `CoeFun` was replaced by `DFunLike`
 -- I can't seem to express the function coercion here without writing `@DFunLike.coe`.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean:60]: Is this not part of the porting note?

File: Mathlib/Algebra/Quaternion.lean [hunk 4]
```diff
@@ -148,7 +148,6 @@ theorem coe_injective : Function.Injective (coe : R → ℍ[R,c₁,c₂]) := fun
 theorem coe_inj {x y : R} : (x : ℍ[R,c₁,c₂]) = y ↔ x = y :=
   coe_injective.eq_iff
 
--- Porting note: removed `simps`, added simp lemmas manually
 instance : Zero ℍ[R,c₁,c₂] := ⟨⟨0, 0, 0, 0⟩⟩
 
 @[simp] theorem zero_re : (0 : ℍ[R,c₁,c₂]).re = 0 := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Quaternion.lean:153]: I think we shouldn't be removing the porting note here. We should fix `simps` instead!

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean:60]: Note that this `coe` can go away after #19511.

**Review by Vierkantor — APPROVED** [review]
Looks good to me otherwise, thanks!

File: Mathlib/Algebra/Quaternion.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Quaternion.lean:153]: It's not that `simps` doesn't generate the lemmas, it's that they have bad names because this is an `instance` (at least, that was my read of the situation after confirming that `simps` can generate them).

File: Archive/MiuLanguage/DecisionNec.lean (hunk 1 above)
Comment (j-loreaux) [reply Archive/MiuLanguage/DecisionNec.lean:157]: Right, the underscore is necessary. There were a few places like this.

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean:60]: oh, I didn't think of those two comments as being connected, but I guess maybe they were. In any case, it can go away soon.

File: Mathlib/Algebra/Quaternion.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Quaternion.lean:153]: Then that's still `simps`' fault, right? It should know how to correctly name the lemmas coming from the projections of an instance. It did in Lean 3

File: Archive/MiuLanguage/DecisionNec.lean (hunk 1 above)
Comment (YaelDillies) [reply Archive/MiuLanguage/DecisionNec.lean:157]: Then I would suggest keeping the porting notes. This is worth investigating

File: Mathlib/Algebra/Quaternion.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Quaternion.lean:153]: I thought maybe we could fix this by giving a name to the instance:
```lean
@[simps?]
instance zero : Zero ℍ[R,c₁,c₂] := ⟨⟨0, 0, 0, 0⟩⟩
```
But now `@[simps]` calls the lemmas `zero_zero_re`, etc. :(

Comment (j-loreaux) [reply Mathlib/Algebra/Quaternion.lean:153]: Yeah, if it could be fixed by naming the instance, that would be great, but we *definitely* shouldn't be having `simps` name something based on the automatic naming of instances.

Comment (YaelDillies) [reply Mathlib/Algebra/Quaternion.lean:153]: Yes, `simps` should just ignore the instance name part

File: Archive/MiuLanguage/DecisionNec.lean (hunk 1 above)
Comment (j-loreaux) [reply Archive/MiuLanguage/DecisionNec.lean:157]: It seems the underscore is no longer needed. I'm not sure when this got fixed.

File: Mathlib/Algebra/Quaternion.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Quaternion.lean]: I've put these notes back, but added a statement that we should adjust `simps` to name properly.

**Comment by kim-em** [comment]
bors merge
